US07662825B2
3-Chloro-N-(5,6-dichloro-3-methoxy-2-pyrazinyl)benzenesulphonamide
Prepared by the method of Example 1 (reaction performed at room temperature) using 5,6-dichloro-3-methoxy-2-pyrazinamine (0.1 g) and 3-chlorobenzenesulphonyl chloride (0.13 g). Yield 0.047 g.

reactant | 5,6-dichloro-3-methoxy-2-pyrazinamine | 0.1 g | ClC=1N=C(C(=NC1Cl)N)OC | C5H5Cl2N3O
reactant | 3-chlorobenzenesulphonyl chloride | 0.13 g | ClC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4Cl2O2S
product | 3-Chloro-N-(5,6-dichloro-3-methoxy-2-pyrazinyl)benzenesulphonamide | ClC=1C=C(C=CC1)S(=O)(=O)NC1=NC(=C(N=C1OC)Cl)Cl | C11H8Cl3N3O3S
